US09403775B2
Methyl chloroformate (55 μL, 700 μL) was added to a solution of tert-butyl(6S,7S)-6-[(4-phenylpiperazin-1-yl)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate (248.4 mg, 0.62 mmol) and di-isopropylethylamine (0.70 mmol, 0.125 mL) in 5 mL acetonitrile. The mixture was stirred at RT for 3 h. Solvent was removed to afford a residue which was dissolved in ethyl ether (15 mL), washed with water (3×2 mL) and dried over Na2SO4. The solution was filtered and concentrated to afford 281 mg of the 7-tert-butyl 5-methyl(6S,7S)-6-[(4-phenylpiperazin-1-yl)carbonyl]-5-azaspiro[2.5]octane-5,7-dicarboxylate.

reactant | Methyl chloroformate | 55 μL | ClC(=O)OC | C2H3ClO2
reactant | tert-butyl(6S,7S)-6-[(4-phenylpiperazin-1-yl)carbonyl]-5-azaspiro[2.5]octane-7-carboxylate | 0.62 mmol, 248.4 mg | C1(=CC=CC=C1)N1CCN(CC1)C(=O)[C@H]1NCC2(CC2)C[C@@H]1C(=O)OC(C)(C)C | C23H33N3O3
reactant | di-isopropylethylamine | 0.70 mmol, 0.125 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | ethyl ether | 15 mL | C(C)OCC | C4H10O
product | 7-tert-butyl 5-methyl(6S,7S)-6-[(4-phenylpiperazin-1-yl)carbonyl]-5-azaspiro[2.5]octane-5,7-dicarboxylate | 281 mg | C1(=CC=CC=C1)N1CCN(CC1)C(=O)[C@H]1N(CC2(CC2)C[C@@H]1C(=O)OC(C)(C)C)C(=O)OC | C25H35N3O5
